US08729263B2
To a flask containing 6-(4-chloro-2-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (1.1 g, 2.88 mmol), Pd2(dba)3 (0.26 g, 0.29 mmol), dppf (0.32 g, 0.58 mmol), zinc dust (75 mg, 1.15 mmol), and zinc cyanide (1.0 g, 8.63 mmol) was added DMA (8.99 mL). The reaction was stirred at 150° C. for 18 h. The crude reaction mixture was cooled to RT, then diluted with EtOAc and filtered through celite. The filtrate was washed with 1 M NaOH (4×), water (6×), and brine. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was purified via column chromatography to give 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)benzonitrile (1.1 g). LCMS Rt=1.02 min (condition B); MS (M+1)=380.4. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.09 (d, J=8.1 Hz, 1H), 7.80 (d, J=9.6 Hz, 1H), 7.38 (dd, J=7.8, 1.5 Hz, 1H), 7.21 (d, J=1.5 Hz, 1H), 6.81 (d, J=9.6 Hz, 1H), 5.12-5.28 (m, 1H), 3.90 (s, 3H), 3.00 (s, 3H), 1.71 (dd, J=12.5, 3.4 Hz, 2H), 1.42-1.51 (m, 2H), 1.38 (s, 6H), 1.23 (s, 6H).

reactant | 6-(4-chloro-2-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 2.88 mmol, 1.1 g | ClC1=CC(=C(C=C1)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C)OC | C21H29ClN4O
reactant | DMA | 8.99 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.29 mmol, 0.26 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.58 mmol, 0.32 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | zinc | 1.15 mmol, 75 mg | [Zn] | Zn
catalyst | zinc cyanide | 8.63 mmol, 1.0 g | [C-]#N.[Zn+2].[C-]#N
product | 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)benzonitrile | 1.1 g | COC=1C=C(C#N)C=CC1C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C22H29N5O
